* Z:\mnt\spice-netlists\LTC3103_TA04.asc
V1 N001 0 3.6
C1 N003 N006 22n
L1 N006 OUT1 15µ
R1 OUT1 N007 1.78Meg
R2 N007 0 665K
C2 OUT1 N007 22p
C3 OUT1 0 22µ
XU1 IN N006 N003 0 NC_01 N002 N005 N007 MP_02 IN LTC3103
R3 IN N005 3.09Meg
R4 N005 0 715K
C4 N002 0 1µ
C5 IN 0 10µ
C6 IN 0 100µ
D1 N001 IN B540C
D2 N004 IN B540C
XU2 0 N004 PhotoCell
Rload OUT1 0 7.3
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.subckt PhotoCell B A
C1 A B 1n
V1 N001 B PWL(0 0 3u 4.8)
D1 N001 A S2
R1 A N001 75
.model S2 D(Ron=.1 Ilimit=5.1 epsilon=.5)
.ends
* LTC3103 - 1.8µA Quiescent Current, 15V, 300mA Synchronous Step-Down DC/DC Converter\nSolar-Powered Buck Supply with Li Battery Backup\nInput: 3.2V to 15V (3.2V Bat Min)     Output: 2.2V @ 300mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3103.sub
.backanno
.end
