* Z:\mnt\spice-netlists\LTC3105_TA03.asc
XU1 N005 OUT2 0 NC_01 N004 IN N001 NC_02 OUT1 N007 0 LTC3105
L1 IN N001 6.8µ
R1 OUT1 N005 1.37Meg
R2 N005 0 604K
C1 OUT1 0 10µ
C2 OUT2 0 4.7µ
C3 N007 0 1µ
R3 N004 N003 4.99K
D1 N003 N006 ES1D
D2 N006 0 ES1D
C4 N003 0 .01µ
C5 IN 0 10µ
XD3 N002 IN PhotoCell
XD4 0 N002 PhotoCell
Rload1 OUT1 0 330
Rload2 OUT2 0 350
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3.5m
* LTC3105 - 400mA Step-Up DC/DC Converter with Maximum Power Point Control and 250mV Start-Up\n3.3V from Multiple Stacked-Cell Photovoltaic with Source Temperature Tracking\nInput: .6V to 1V     Output1: 3.3V @ 10mA     Output2: 2.2V @ 6mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.subckt PhotoCell B A
C1 A B 1n
V1 N001 B PWL(0 0 1u .5)
D1 N001 A S2
R1 A N001 75
.model S2 D(Ron=.1 Ilimit=5.1 epsilon=.5)
.ends
.lib LTC3105.sub
.backanno
.end
