* Z:\mnt\spice-netlists\LTC3108_TA02.asc
XU1 0 N006 N003 OUT NC_01 N007 N008 MP_02 MP_03 0 N006 NC_04 N002 N004 N005 LTC3108
C7 N006 0 1µ
V1 IN 0 PWL(.1m 0 .101m 30m)
L1 N005 IN 7.5µ
L2 0 N001 75m
C2 N001 N002 1n
C3 N001 N004 330p
C4 N003 0 1m
C5 OUT 0 470µ
C6 N007 0 2.2µ
C1 IN 0 220µ
K1 L1 L2 1
.tran 1 startup
.ic V(OUT)=3.3
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
* LTC3108 - Peltier-Powered Energy Harvester for Remote Sensor Applications\nInput: 30mV       Output: 3.3V
.lib LTC3108.sub
.backanno
.end
