* Z:\mnt\spice-netlists\LTC3112_TA05.asc
XU1 0 N008 N007 0 IN MP_01 N005 N009 OUT MP_02 MP_03 N003 MP_04 N004 N002 MP_05 N001 N006 N006 LTC3112
C1 N009 0 100p
C2 N006 0 1µ
C3 N002 N001 .1µ
L1 N002 N003 4.7µ
C4 N003 N004 .1µ
C5 N007 N008 680p
R1 OUT N007 845K
R2 N007 0 158K
C6 OUT N007 47p
C7 OUT 0 47µ
C8 IN 0 220µ
D1 OUT N006 BAT54
R3 IN N005 1Meg
R4 N005 0 499K
R5 OUT N005 499K
V1 IN 0 9
Rload OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2.5m startup
* LTC3112 - 15V, 2.5A Synchronous Buck-Boost DC/DC Converter\n5V Buck-Boost Supercap Backup Supply\nInput: 15V to 2V     Output: 2V @ 250mA
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc.  All rights reserved.
.lib LTC3112.sub
.backanno
.end
