* Z:\mnt\spice-netlists\LTC3442_TA01.asc
L1 N001 N002 4.7µ
R1 N008 0 71.5K
V1 IN 0 3.3
C1 N004 N007 470p
R2 N007 N006 15K
R3 N004 0 200K
R4 OUT N004 340K
C2 OUT 0 22µ
C3 N005 N004 220p
R5 IN N003 1Meg
C4 N003 0 .001µ
XU1 N003 N008 0 N001 0 N002 N009 OUT IN 0 N006 N004 LTC3442
R6 N009 0 200K
C5 0 N009 .01µ
R7 OUT N005 2.2K
Rload OUT 0 2.5
C6 IN 0 10µ
.tran 2m startup
* LTC3442 - µPower Synchronous Buck-Boost DC/DC Converter with Automatic Burst Mode Operation\nLi-Ion to 3.3V µPower Buck-Boost Converter\nInput: 2.5V to 4.2V     Output: 3.3V @ 1.2A
* Note:\n  Small value are used for SS capacitors to reduce simulation time; typical value will vary from 10nF to 100nF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3442.sub
.backanno
.end
