* Z:\mnt\spice-netlists\LTC3536_TA04.asc
XU1 N004 0 0 N001 N002 OUT IN IN N005 N006 0 LTC3536
V1 IN 0 3.4
L1 N001 N002 4.7µ
R1 OUT N005 845K
C1 OUT N005 47p
R2 N005 0 187K
C2 N005 N006 220p
Rload OUT 0 3.3
R3 N004 0 100K
C3 OUT 0 22µ
C4 IN N003 6m
C5 N003 0 6m
.tran 1m startup
* LTC3536 - 1A Low Noise, Buck-Boost DC/DC Converter\nSupercapcitor Backup Power Supply\nInput: 1.8V to 5V     Output: 3.3V @ 300mA (1A for Vin > 3V)
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3536.sub
.backanno
.end
