* Z:\mnt\spice-netlists\LTC3600_TA01.asc
V1 IN 0 12
C1 OUT 0 22µ
Rload OUT 0 2.5
XU1 N003 N001 N001 N001 IN N001 N004 IN N002 N001 OUT NC_01 0 LTC3600
R1 N003 0 49.9K
C2 N003 0 .002µ
C3 0 N001 1µ
C4 N002 N004 .1µ
L1 OUT N004 2.2µ
C5 IN 0 10µ
.tran 1m startup
* LTC3600- 1.5A, Synchronous Rail to Rail Step-Down Regulator\nHigh Efficiency, 1MHz, 1A Step-Down Converter\nInput : 4V to 15V     Output: 2.5V @ 1A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3600.sub
.backanno
.end
