* Z:\mnt\spice-netlists\LTC3626_TA03.asc
V1 IN 0 PWL(0 0 .1m 5)
C1 N006 N008 .1µ
L1 N008 OUT 2.2µ
R1 OUT N010 127K
R2 N010 0 40.2K
C2 OUT 0 47µ
XU1 N006 N001 OUT MP_01 MP_02 0 N009 N001 N007 N010 N005 N001 IN IN IN MP_03 N003 N002 N008 MP_04 0 LTC3626
C3 0 N001 2.2µ
C4 OUT N010 22p
C5 IN 0 47µ
C6 N004 0 220p
R3 N005 N004 13K
C7 N009 0 .02µ
R4 N009 0 40.2K
R5 N001 N002 100K
V2 N003 0 PULSE(0 5 0 0 0 .5u 1u)
Rload OUT 0 1
.tran 1.3m
* LTC3626 - 20V, 2.5A Synchronous Monolithic Step-Down Regulator with Current & Temp Monitoring\n2.5V, 1MHz Step-Down with Average Input Current Limit & Monitor\nInput: 3.6V to 20V (475mA Average Limit)       Output: 2.5V @ 2.5A
* Note:\n  IMONin capacitor (C7) should be 1µF to provide adequate loop statility; it was decreased to speed up simulation of the input current limit.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3626.sub
.backanno
.end
