* Z:\mnt\spice-netlists\LTC3703_TA03.asc
XU1 0 N002 N005 N007 N008 IN N011 0 0 N012 IN N009 N001 N006 N003 0 LTC3703
M§Q1 OUT N006 N001 N001 Si7386DP
M§Q2 N001 N012 0 0 Si7386DP
V1 IN 0 12
L1 IN N001 3.3µ
C1 OUT 0 220µ x3
R1 N008 0 15K
R2 N002 0 30.1K
R3 N005 N004 50K
C2 N004 N007 0.0025µ
R4 OUT N007 113K
C3 N011 0 .0047µ
C4 N003 N001 .1µ
R5 N007 0 3.92K
C5 N005 N007 50p
D1 N001 OUT 1N5817
C6 OUT 0 10µ
D2 IN N003 CMDSH2-3
R6 N009 IN 10
C7 N009 0 1µ
C8 IN 0 10µ
C9 IN 0 22µ
C10 IN 0 100µ
RLoad OUT 0 4.8
C11 OUT N010 500p
R7 N010 N007 20K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LTC3703 - 100V Synchronous Switching Regulator Controller\n12V to 24V @ 5A Synchronous Boost Converter\nInput: 10V-15V     Output: 24V @ 5A
.lib LTC3703.sub
.backanno
.end
