* Z:\mnt\spice-netlists\LTC3789_TA01.asc
M§Q1 IN N009 N012 N012 IRF7831
D1 N001 N008 BAT54
D2 N001 N007 BAT54
C1 N001 0 4.7µ
M§Q2 N002 N010 N011 N011 IRF7831
M§Q3 N011 N014 N015 N015 IRF7831
C2 N002 0 10µ
R1 N019 0 7.5K
R2 OUT N019 105K
R3 N015 0 10m
C3 N007 N012 .1µ
C4 N008 N011 .1µ
C5 N016 0 .001µ
C6 N018 0 0.01µ
M§Q4 N012 N013 N015 N015 IRF7831
D3 N015 N012 1N5817
D4 N011 N002 1N5817
L1 N012 N011 4.7µ
XU1 N019 N016 N015 0 N018 0 0 N017 N005 IN N002 0 N006 N004 MP_01 N011 N010 N008 N014 N002 N001 IN N013 0 N007 N009 N012 N003 LTC3789
R4 N002 OUT 10m
R5 N017 0 121K
C7 OUT 0 270µ
Rload OUT 0 6
C8 IN 0 22µ
V1 IN 0 15
R6 N004 OUT 100
R7 N006 N002 100
C9 N004 N006 2.2µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3789 - High Efficiency, Synchronous, 4-Switch Buck-Boost Controller\n12V Automotive Buck-Boost Solution with Programmable Output Current Limit\nInput: 4V to 38V (40V Max)     Output: 12V @ 4A(5A current limit) fsw = 400kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LTC3789.sub
.backanno
.end
