* Z:\mnt\spice-netlists\LTC3803_TA01.asc
XU1 N006 0 N008 N007 N002 N004 LTC3803
L1 IN N003 76µ
L2 0 N001 1µ
M§Q1 N003 N004 N007 N007 Si4848DY
R1 N007 0 0.068
R2 IN N002 6.8K
D1 N001 OUT 1N5817
R3 N008 OUT 105K
R4 0 N008 20K
C1 OUT 0 300µ
C2 N002 0 10µ
R5 N006 N005 56K
C3 N005 0 .0022µ
V1 IN 0 PWL(0 0 20u 36 21m 36 22m 72)
Rload OUT 0 2.5 pwr=12
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 22ms  startup
* LTC3803 - Constant Frequency Current Mode Flyback DC/DC Controller in ThinSOT\n5V Output Nonisolated Telecom Housekeeping Power Supply\nInput: 36V to 72V     Output: 5V at 2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LTC3803.sub
.backanno
.end
