* Z:\mnt\spice-netlists\LTC3113_TA06A.asc
V1 IN 0 3.3
L1 N001 N002 2.2µ
C1 N003 N005 220p
R1 OUT N003 845K
R2 N003 0 158K
C2 OUT N003 33p
C3 OUT 0 200µ
XU1 N004 0 0 N001 0 MP_01 N002 OUT MP_02 IN MP_03 IN N003 N005 LTC3113
R3 N004 0 90.9K
C4 OUT 0 4.7µ
I§Load OUT 0 PULSE(0 3 2.2m 1u 1u .5m)
.tran 3m startup
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LTC3113 - 3A Low Noise Buck-Boost DC/DC Converter\nPulsed Load or Portable RF Power Amplifier Application\nInput: 3.3V      Output: 3.8V @ 3A     Fswitch = 1MHz
.lib LTC3113.sub
.backanno
.end
