* Z:\mnt\spice-netlists\LTC3122_TA08A.asc
XU1 N002 0 IN N004 N004 N007 N008 N006 IN 0 OUT N005 LTC3122
L1 IN N002 3.3µ
C1 N004 0 4.7µ
R1 N007 0 57.6K
C2 N009 0 1000p
C3 OUT N005 .1µ
R2 N006 0 121K
R3 OUT N006 383K
C4 OUT 0 100µ
Rload OUT 0 12.5
C5 IN N003 5m
C6 N003 0 5m
R4 N008 N009 43.2K
C8 N008 0 68p
V1 N001 0 PWL(0 0 20u 4 11m 4 11.2m 0)
D1 N001 IN MBR0520L
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 17m
* LTC3122 - 15V, 2.5A Synchronous Step-Up DC/DC Converter with Output Disconnect\nDual Supercapacitor Backup Power Supply\nInput: 0.5V to 5V (1.8V Startup)     Output: 5V @ 50mA to 2.5A
* Note:\n  Output current depends on input voltage. Please see datasheet for details.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LTC3122.sub
.backanno
.end
